US07897597B2
Under a nitrogen atmosphere, a solution of 5-(tert-butoxycarbonylamino)valeric acid (1.50 g, 6.91 mmol) in dichloroethane (30 mL) was cooled to −25° C. Triethylamine (2.40 mL, 17.2 mmol) and pivaloyl chloride (0.85 mL, 6.91 mmol) were added, and the reaction was stirred for three hours, during which time the temperature rose to −10° C. 7-Benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine (0.850 g, 2.20 mmol), prepared as described in Parts A-B of Example 46, was added in one portion followed by a small scoop of 4-dimethylaminopyridine. The reaction was allowed to warm to room temperature and stirred overnight and then heated at reflux for three hours. The reaction solution was washed with saturated sodium bicarbonate, water (2×), and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with sequentially with 98:2 and 95:5 chloroform:methanol) to yield a solid. The solid was treated with diethyl ether and concentrated under reduced pressure to provide 1.03 g of tert-butyl {4-[7-benzyloxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-2-yl]butyl}carbamate as a white powder.

reactant | 5-(tert-butoxycarbonylamino)valeric acid | 6.91 mmol, 1.50 g | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | Triethylamine | 17.2 mmol, 2.40 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 6.91 mmol, 0.85 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 7-Benzyloxy-N4-(2-phenoxyethyl)quinoline-3,4-diamine | 2.20 mmol, 0.850 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCCOC1=CC=CC=C1 | C24H23N3O2
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl {4-[7-benzyloxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-2-yl]butyl}carbamate | 1.03 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCOC3=CC=CC=C3)CCCCNC(OC(C)(C)C)=O | C34H38N4O4
